Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Fentanyl
 
Attending: ___
 
Chief Complaint:
nausea/vomiting 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yr old with ETOH cirrhosis, chronic pancreatitis, grade I 
esophageal varices presents with nausea, vomiting, abdominal 
pain, possible hematemesis after heavy drinking of unknown 
duration. Patient does not recall any hematemesis. Per report 2 
days, per ED ___ wks. Unable to obtain hx from patient.  
.  
Recent admission ___ with abdominal pain and ETOH 
intoxication and subsequent withdrawal. Patient reported 
drinking alcohol when she was out of narcotics. Most recent EGD 
___ with four cords of grade I varices, congestive 
gastropathy, polyps in the duodenal bulb and second portion of 
duodenum. Antral mucosa with focal intestinal metaplasia. 
Duodenal mucosa with focal mild villous shortening and 
epithelial regeneration without increased epithelial 
lymphocytes, consistent with healing erosion and brunner gland 
hyperplasia. Patient placed on sucralfate, omeprazole, nadolol. 
Great effort was taken to have PCP and liver consult, ETOH 
counseling but patient missed PCP appt, and continues to drink.  

.  
In ED vs 98.9, 105, 108/74, 18, 96%RA. Pt intoxicated. ETOH 212. 
Patient complaining of pain. Given morphine, Ativan, zofran, NS 
x 2 liters. Gastrocult negative. Admitted for further 
management.  

 
Past Medical History:
- Alcoholic cirrhosis (dx: ___- complicated by varices, 
ascites, encephalopathy  
- Chronic pancreatitis (dx: ___ - on pancrease  
- EtOH abuse - history of DT  
- Low back pain (dx: ___ - degenerating L4-6 discs, seen in 
pain clinic ___ years ago and received fentanyl patch and 
oxycodone  
- Asthma (since birth) - history of intubation in the past  
- Uterine and cervical CA s/p hysterectomy (___)  

 
Social History:
___
Family History:
Mother died at age ___ from a GIB, "blood clot in stomach" ; 
Father died in mid-___ from cancer, possibly mesothelioma 
(worked in ___). Mother, father, paternal grandfather have 
history of alcoholism. 
 
Physical Exam:
VS: afebrile, satting well on room air.  
GEN: Middle-aged woman intoxicated in bed  
HEENT: EOMI, PERRL, sclera anicteric, conjunctivae clear, Dry 
mucous membranes, poor dentition  
NECK: unable to assess jvp patient laying flat  
CV: Reg rate, normal S1, S2. ___ SEM  
CHEST: RePositive Rhales 
ABD: Soft, tender over right upper quadrant over nodular liver 
and lower quadrants bilaterally. Spleen enlarged. no caput  
EXT: No c/c/e, No asterixis  
SKIN: No rash  
rectal: unable to perform rectal given patient refusal  

 
Pertinent Results:
___ 07:15PM BLOOD WBC-8.2# RBC-4.55# Hgb-14.6# Hct-42.9# 
MCV-94 MCH-32.1* MCHC-34.0 RDW-18.8* Plt Ct-88*#
___ 06:50AM BLOOD WBC-7.8 RBC-3.44* Hgb-11.1*# Hct-32.8*# 
MCV-95 MCH-32.3* MCHC-33.8 RDW-18.9* Plt Ct-89*
___ 06:50AM BLOOD ___ PTT-40.2* ___
___ 07:15PM BLOOD Glucose-92 UreaN-12 Creat-0.8 Na-141 
K-3.1* Cl-99 HCO3-26 AnGap-19
___ 06:50AM BLOOD Glucose-77 UreaN-14 Creat-0.8 Na-141 
K-5.2* Cl-107 HCO3-24 AnGap-15
___ 07:15PM BLOOD ALT-27 AST-70* AlkPhos-119* TotBili-2.1*
___ 06:50AM BLOOD ALT-18 AST-63* LD(LDH)-333* AlkPhos-91 
TotBili-1.8*
___ 06:50AM BLOOD Albumin-3.3* Calcium-7.5* Phos-3.6 Mg-1.9
___ 07:15PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

CXR:
FINDINGS: The cardiomediastinal silhouette is stable in 
appearance. There is no focal consolidation or effusion. There 
is no evidence of pneumothorax or pneumomediastinum. The osseous 
structures are unchanged. There are slightly low lung volumes. 
Please note that the right and left costophrenic angle was 
excluded on this film.   
IMPRESSION: No evidence of pneumomediastinum. 

IMPRESSION: 
1. No evidence of ascites.
2. No evidence of cholelithiasis. 
3. Findings consistent with the patient's history of cirrhosis. 
No definite focal liver lesion. 

 
Brief Hospital Course:
ASSESSMENT AND PLAN: ___ yr old with ETOH cirrhosis, chronic 
pancreatitis with nausea/vomiting/abdominal pain and ETOH 
intoxication.  
.  
# N/V/abdominal pain: Unclear etiology.  Patient reports that 
the pain is different from her chronic abdominal pain but cannot 
explain how.  She is diffusly tender to light palpation all over 
her chest and abdomen.  She frequently requested IV narcotics.  
A recent EGD showed grade 1 esophogeal varicies, ulcers in the 
duodenal bulb and congestive gastropathy.  Her pain may have 
been related to these findings.  She had recently been admitted 
and seen by the pain service who recommedned that narcotics not 
be used in her case, but that a fentanyl patch be used if 
needed.  She was unable to tolerate a fentanyl patch secondary 
to an allergy.  Narcotics were avoided in this patient given her 
ongoing alchohol problem.  She was not given narcotics and 
became very agitated, threw her lunch tray across the room and 
signed out against medical advice.    
.  
# ?upper GI bleed: As per ED there was a question of coffee 
ground emesis, however a gastroccult was negative. Per her 
recent EGD, she has reasons to have hematemesis, however this 
pesentation was not consistent with a variceal bleed. 
.  
# ETOH/cirrhosis: patient presented to the ED intoxicated. She 
has a history of DT's.  Cirrhosis was again confirmed on 
ultrasound of RUQ.  It was suspected by the nursing staff that 
she was drinking vodka in the bathroom as she made frequent 
trips and her breath consistently smelled of vodka despite being 
in the hospital overnight, however this was not confirmed.  Her 
CIWA scores were not elevated and she was not given any 
benzodiazepines (except for some that she recieved in the ED).  
She was given two banana bags and instructed to start oral 
thiamine and folate.  Social work did not have an opportunity to 
meet with her.    
.  
# PPx: pneumoboots, IV PPI  
.  
# Code: FULL  
.  
# Dispo: Patient left against medical advice.    

 
Medications on Admission:
(from previous DC summary as patient unable to elucidate)  
1. Sucralfate 1 gram Tablet Sig: One (1) Tablet PO QID (4 times  

a day).  
2. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY  
(Daily).  
3. Nadolol 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2)  

Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
5. Multivitamin Tablet Sig: One (1) Tablet PO DAILY (Daily).  
6. Amylase-Lipase-Protease 48,000-16,000- 48,000 unit Capsule,  
Delayed Release(E.C.) Sig: One (1) Cap PO QIDWMHS (4 times a day 
 
(with meals and at bedtime)).  
Disp:*120 Cap(s)* Refills:*2*  
7. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

8. Nicotine 14 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr  
Transdermal DAILY (Daily).  
Disp:*14 Patch 24 hr(s)* Refills:*0*  
9. Lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO QID (4  
times a day).  
10. Docusate Sodium 100 mg Capsule Sig: Two (2) Capsule PO BID  
(2 times a day).  
11. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a  
day).  
12. Fentanyl 12 mcg/hr Patch 72 hr Sig: One (1) Transdermal  
Q72H (every 72 hours) for 10 days.  
Disp:*10 10* Refills:*0*  
13. Albuterol 90 mcg/Actuation Aerosol Sig: One (1) Inhalation  
every six (6) hours as needed for shortness of breath or  
wheezing.  

 
Discharge Medications:
1. Albuterol 90 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation Q4H (every 4 hours).  
2. Sucralfate 1 gram Tablet Sig: One (1) Tablet PO QID (4 times 
a day).  
3. Amylase-Lipase-Protease 20,000-4,500- 25,000 unit Capsule, 
Delayed Release(E.C.) Sig: One (1) Cap PO QIDWMHS (4 times a day 
(with meals and at bedtime)).  
4. Lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO TID (3 
times a day).  
5. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
6. Senna 8.6 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) as 
needed.  
7. Nadolol 20 mg Tablet Sig: One (1) Tablet PO once a day.  
8. Albuterol 90 mcg/Actuation Aerosol Sig: One (1)  Inhalation 
every six (6) hours as needed for shortness of breath or 
wheezing.  
9. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO once a day. 
 
10. Omeprazole 20 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO twice a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-acute on chronic abdominal pain of multifactorial etiology 
-alcohol intoxication

 
Discharge Condition:
AMA

 
Discharge Instructions:
You were admitted to ___ for nausea/vomiting, abdominal pain, 
and a question of blood in your vomit.  A test for blood in your 
vomit was negative.  However, you likely have ongoing gastritis 
in your stomach which could cause further bleeding.  This is 
especially true in the setting of alcohol.  You should seek 
treatment for your alcoholism so that you can be monitored 
safely in a safe environment.  

You are at risk for alcohol withdrawal, which can be complicated 
by seizure or even death.  This was explained to you, but you 
chose to leave against medical advice.  It was explained that we 
did not feel your pain is best treated with narcotics, and other 
options were offered including ultram or a pain management 
consult for more options.  Despite these offers and an 
explaination of your risk for leaving, you chose to leave AMA.
 
Followup Instructions:
___